US20010021481A1
Synthesis of [2.2](2,6)-Naphthalenophane
A mixture of 2,6-dimethylnaphthalene (12.5 g, 0.08 mol), N-bromosuccinimide (30.6 g, 0.17 mol), and benzoyl peroxide (0.4 g) in carbon tetrachloride (70 ml) was stirred and refluxed for 1 hour. The reaction mixture was cooled to room temperature and the precipitate was filtered and then washed with carbon tetrachloride. A suspension was formed by stirring this solid with water (500 ml) for 45 min. followed by filtering, washing with water, and drying. Recrystallization from ethyl acetate furnished pure 2,6-bis(bromomethyl)naphthalene.

reactant | 2,6-dimethylnaphthalene | 0.08 mol, 12.5 g | CC1=CC2=CC=C(C=C2C=C1)C | C12H12
reactant | N-bromosuccinimide | 0.17 mol, 30.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | water | 500 ml | O | H2O
reactant | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | [2.2](2,6)-Naphthalenophane | C1CC2=CC3=C(C=C2)C=C(CCC4=CC5=C(C=C4)C=C1C=C5)C=C3 | C24H20
